US08865752B2
A solution of 4-(2-ethyl-1-(1H-imidazol-1-yl)butyl)aniline (285 mg, 1.17 mmol) and KSCN (455 rug, 4.68 mmol) in AcOH (6 mL) was stirred until all dissolved at RT and then treated with Br2 (0.063 mL, 1.23 mmol) in AcOH (2 mL) added drop wise via syringe over 5 min. The reaction mixture was stirred overnight at RT. The reaction mixture was diluted with ice water and then basified with NH4OH (pH 12). The aqueous phase was extracted three times with DCM and the organic extracts were combined and dried over filtered and then concentrated. The crude product was purified by preparative TLC using 5% MeOH in DCM as eluent to afford to 6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine as pale yellow solid. MS (ES+): 301.27 (MH+).

reactant | 4-(2-ethyl-1-(1H-imidazol-1-yl)butyl)aniline | 1.17 mmol, 285 mg | C(C)C(C(N1C=NC=C1)C1=CC=C(N)C=C1)CC | C15H21N3
reactant | KSCN | 4.68 mmol | C(#N)[S-].[K+]
reactant | Br2 | 1.23 mmol, 0.063 mL | BrBr | Br2
reactant | NH4OH | pH 12 | [NH4+].[OH-]
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | C(C)C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC | C16H20N4S
